US05760067
0.71 g (6 mmol) of thionyl chloride are added at room temperature with stirring to a mixture of 1.77 g (5 mmol) of 6-(1-chlorocyclopropyl)-3,4-dichloro-2,6-dihydroxy-2-methyl-7-(1,2,4-triazol-1-yl)-hept-3-ene and 20 ml of methylene chloride, and the mixture is then heated at reflux for 5 hours. Aqueous sodium carbonate solution is subsequently added to the reaction mixture, which is then subjected several times to extraction with methylene chloride. The combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. The product which remains is chromatographed over silica gel using ethyl acetate. Concentration of the eluate gives 0.5 g (20% of theory) of 6(1-chlorocyclopropyl)-3,4dichloro-6-hydroxy-2-methyl-7-(1,2,4-triazol-1-yl)hepta-1,3-diene in the form of a colourless oil.

reactant | thionyl chloride | 6 mmol, 0.71 g | S(=O)(Cl)Cl | Cl2OS
reactant | 6-(1-chlorocyclopropyl)-3,4-dichloro-2,6-dihydroxy-2-methyl-7-(1,2,4-triazol-1-yl)-hept-3-ene | 5 mmol, 1.77 g | ClC1(CC1)C(CC(=C(C(C)(C)O)Cl)Cl)(CN1N=CN=C1)O | C13H18Cl3N3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 6(1-chlorocyclopropyl)-3,4dichloro-6-hydroxy-2-methyl-7-(1,2,4-triazol-1-yl)hepta-1,3-diene | 0.5 g, 20% | ClC1(CC1)C(CC(=C(C(=C)C)Cl)Cl)(CN1N=CN=C1)O | C13H16Cl3N3O
